Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
___ pacemaker placement

 
History of Present Illness:
Mr ___ is a ___ yo M with history of HTN, gout, who was 
transferred from ___ s/p fall ___ feet down flight of stairs with 
LOC 4 min, found to have posterior head lac and concern for 
unstable C1 fracture on CT, then found to have AV block in the 
ED, now s/p Dual chamber ___.  
 The patient had OSH CT torso with C-spine as well as noncon 
head CT. He received 3 staples for his head laceration. He was 
noted to be alert and oriented upon arrival to ___.  
 In the ED initial vitals were: 97.5 54 116/56 18 96% RA  
 Labs/studies notable for:  
 - WBC 14.1 (from 11.5 on admission) but otherwise normal CBC, 
creatinine 1.1, normal coags, fibrinogen 406, trops neg x1, 
lactate 1.3  
 - UA negative  
 Patient was given: 4 mg IV Zofran x2, 1000 mg Tylenol  
 Patient received MRI, which was negative for ligamentous 
injury. Spine was consulted and recommended non-operative 
management due to stability. Additionally ACS trauma was 
consulted, and the patient received imaging with CT torso and 
repeat head CT, which did not show acute processes.  
 The patient was walking assisted from a chair and the plan was 
to discharge him home after lunch. However, the patient 
triggered for unresponsiveness around 2 pm. He was initially 
bradycardic in the ___ and then had 3 second asystolic pause 
with spontaneous resumption of cardiac activity. EP was 
consulted, took the patient for placement of dual chamber 
___ (MRI compatible).  
 
 On the floor patient complains of neck discomfort and a 
headache.  
 ROS: Per HPI, otherwise negative.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +HL  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: dual chamber ___ (placed ___, MRI 
compatible  
 3. OTHER PAST MEDICAL HISTORY:  
 - gout  

 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
==========================
 VS: 98.8 113/67 93 20 97% 3L  
 GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: PERRLA, MMM.  
 NECK: hard collar in place, unable to asses JVP  
 CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.  
 LUNGS: CTAB  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e.  
 SKIN: lac on right forehead, dressing c/d/i, PPM in left chest, 
dressing c/d/i, without hematoma  

DISCHARGE PHYSICAL EXAM:
==========================
Vitals:  97.4 ___ 131-146/59-64 16 92% ra
Tele: no alarms, NSR
Last 24 hours I/O: 1500/not recorded
Last 8 hours I/O: 0+/0+
Weight on admission: 91.2
Today's weight: 91.2 -> 95.5-> 84.3
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: PERRLA, MMM.  
 NECK: hard collar in place, unable to asses JVP  
 CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.  
 LUNGS: CTAB  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: Trace edema, wearing TEDs
 SKIN: lac on right forehead, dressing c/d/i, PPM in left chest, 
dressing c/d/i, without hematoma  
 
Pertinent Results:
ADMISSION LABS:
==========================
___ 10:00PM BLOOD WBC-11.5* RBC-4.82 Hgb-14.9 Hct-45.2 
MCV-94 MCH-30.9 MCHC-33.0 RDW-13.1 RDWSD-44.7 Plt ___
___ 08:15AM BLOOD Neuts-73.9* Lymphs-14.7* Monos-10.5 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-10.44* AbsLymp-2.08 
AbsMono-1.49* AbsEos-0.00* AbsBaso-0.06
___ 10:00PM BLOOD ___ PTT-28.9 ___
___ 08:15AM BLOOD Glucose-191* UreaN-30* Creat-1.3* Na-131* 
K-8.8* Cl-100 HCO3-22 AnGap-18
___ 08:15AM BLOOD cTropnT-<0.01
___ 06:05AM BLOOD Calcium-9.2 Phos-3.3 Mg-2.1
___ 10:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING/STUDIES:
==========================
___ CXR
There has been interval placement of a dual lead pacemaker.  The 
pacemaker leads appear to be in appropriate position.  No 
pneumothorax seen.  No pleural effusion seen.  An apparent 
retrocardiac opacity likely reflects atelectasis as this was not 
present on the prior study.  Probable small bone infarct in the 
proximal right humerus. 

 CT TORSO W/ CONTRAST ___  
 1. No acute traumatic injury in the chest, abdomen or pelvis. 
Known cervical spine fracture is not included in view.  
 2. Hyperdense 1.4 cm focus in the interpolar region of the 
right kidney is indeterminate but could be a hemorrhagic cyst. 
This should be evaluated with renal ultrasound non urgently to 
exclude solid lesion.  
 3. Severe degenerative changes in the lumbar spine.  
 4. Colonic diverticulosis without diverticulitis. 
Prostatomegaly 
 
 CT HEAD W/O CONTRAST ___  
 1. No acute intracranial abnormality.  
 2. Partially imaged burst fracture of C1. The lowest most image 
demonstrates partially imaged high density in the anterior 
spinal canal which could reflect epidural hemorrhage related to 
C1 fracture. Hemorrhage effaces the ventral CSF and contacts the 
central cord.  
 3. Right parietal scalp hypodense collection, likely sub acute 
subgaleal hematoma.  

 MR CERVICAL SPINE W/O C ___  
 1. Thickening and edema within the soft tissues and ligaments 
in posterior to the odontoid process, suggestive of ligamentous 
injury, with mild-to-moderate narrowing at the craniocervical 
junction.  
 2. Findings suggestive of interspinous ligamentous injury from 
C2-C3 to C4-C5.  
 3. Unchanged fractures of the right anterior posterior arches 
of C1.  
 4. Extensive paraspinal edema in the cervical and upper 
thoracic spine, which may represent a sprain.  
 5. Multilevel degenerative changes of the cervical spine as 
detailed above.  

 ___ CXR *OSH* WNL  
 ___ Head CT *OSH* WNL  
 ___ XR Pelvis *OSH* WNL  

DISCHARGE LABS:
==========================
___ 07:50AM BLOOD WBC-9.7 RBC-4.12* Hgb-13.0* Hct-40.1 
MCV-97 MCH-31.6 MCHC-32.4 RDW-13.5 RDWSD-48.5* Plt ___
___ 07:50AM BLOOD Glucose-110* UreaN-32* Creat-1.0 Na-139 
K-4.2 Cl-104 HCO3-25 AnGap-14
___ 07:50AM BLOOD Calcium-9.2 Phos-3.8 Mg-2.___RIEF SUMMARY STATEMENT:
=========================
Mr ___ is a ___ y/o M with history of HTN, gout, who was 
transferred from ___ s/p fall ___ feet down flight of stairs with 
LOC 4 min, found to have posterior head lac and concern for 
unstable C1 fracture on CT, then found to have AV block in the 
ED. In the ED, he was evaluated by spinal surgery; imaging 
showed a C1 fracture, but nothing requiring surgical 
intervention. He was instructed to wear a hard collar at all 
times until spinal clinic appointment in 2 weeks. For his AV 
block, he had a Dual Chamber ___ PPM  placed on ___, and 
tolerated the procedure well. After PPM placement, he was in 
normal sinus rhythm with no palpitations or LOC. When walking 
with physical therapy, he was deconditioned and needed 
supervision, so rehab was recommended. At time of discharge, he 
continued to have intermittent headache, well controlled with PO 
Tylenol and breakthrough oxycodone.

ACTIVE ISSUES:
=========================
# AV block s/p PPM:
On admission, patient had AV block, and underwent urgent 
placement of Dual Chamber ___ PPM on ___. He received a 
dose of Vancomycin on ___, and completed his 3-day course of 
antibiotics with Cephalexin (last dose ___. He was monitored 
on telemetry, and remained in normal sinus rhythm, with no 
palpitations or chest pain throughout the hospitalization.  

# Stable C1 fracture:
Following his fall, Mr ___ was imaged on the ED, and found to 
have a C1 fracture. He was neurologically intact, and pain was 
controlled with PO medications. Spinal surgery evaluated him in 
the ED and recommended nonoperative management. He was 
instructed to wear a rigid cervical collar at all times. At time 
of discharge, pain was well controlled with PO oxycodone and 
Tylenol.

# Leukocytosis:
On admission, patient had a leukocytosis, but no fevers, chills, 
or other focal infectious symptoms. CXR negative for infection, 
U/A also negative. Leukocytosis improved with time, and was 
likely reactive in the setting of a traumatic fall.

# ___: 
On admission, patient had Cr up to 1.4 from baseline of 1.1. He 
was euvolemic on exam, so no intervention was made. Was likely 
pre-renal in the setting of decreased PO intake after his fall. 

CHRONIC STABLE ISSUES
=========================
# HTN:  
Continued Lisinopril 5 mg PO/NG DAILY   

# Gout:  
Continued Allopurinol ___ mg PO/NG DAILY 
 
# Hyperlipidemia:  
Continued Pravastatin 40 mg PO QPM 

TRANSITIONAL ISSUES:
=========================
Discharge weight: 84.3kg
Discharge creatinine: 1.0

TRANSITIONAL ISSUES:
- CT Torso showed hyperdense 1.4 cm focus in interpolar region 
of the right kidney that is indeterminate. Consider renal 
ultrasound as outpatient
- For his C1 fracture, patient needs to wear a hard collar for 6 
weeks. He should follow up in Spine Clinic in 2 weeks. 
- For his PPM, he should follow up in ___ EP Device Clinic in 
1 week. The ___ clinic will schedule him with further cardiology 
appointments at this visit
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 5 mg PO DAILY 
2. Pravastatin 40 mg PO QPM 
3. Allopurinol ___ mg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Pravastatin 40 mg PO QPM 
4. Acetaminophen 650 mg PO Q6H 
5. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
- Atrioventricular block, status post permanent pacemaker 
placement
- C1 fracture
- Leukocytosis

SECONDARY DIAGNOSES
- Hypertension
- Hyperlipidemia
- Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You were admitted to ___ 
after a fall. While you were here, you had an EKG that showed an 
abnormal heart rhythm that was the most likely cause of your 
falls. You had a pacemaker placed on ___ with no acute 
complications. After the pacemaker was placed, your heart rate 
and rhythm remained normal. 

For your neck, you will need to wear that brace at all times 
until you see the Spine Clinic in 2 weeks. You can continue to 
take Tylenol as needed for headache.

When you leave the hospital, it will be very important to take 
all of your medications as prescribed. It will also be very 
important that you attend all of your follow-up appointments. 

We wish you all the best in the future.

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___